US08455488B2
Synthesis of 1-(2-((S)-1-((benzo[b]thiophen-3-ylmethyl)((S)-1,1-diethoxypropan-2-yl)amino)-1-oxopropan-2-ylamino)-2-oxoethoxy)-3-ethylurea (Compound II-115)
According to the procedure described in the synthesis method of Compound II-15, 2-(3-ethylureidooxy)acetic acid (Compound VI-13) 67 mg (0.41 mmol) was coupled with (S)-2-amino-N-(benzo[b]thiophen-3-ylmethyl)-N—((S)-1,1-diethoxypropan-2-yl)propanamide (Compound IV-12) 100 mg (0.27 mmol) to obtain the title compound.

reactant | 2-(3-ethylureidooxy)acetic acid | 0.41 mmol, 67 mg | C(C)NC(NOCC(=O)O)=O | C5H10N2O4
reactant | (S)-2-amino-N-(benzo[b]thiophen-3-ylmethyl)-N—((S)-1,1-diethoxypropan-2-yl)propanamide | 0.27 mmol, 100 mg | N[C@H](C(=O)N([C@H](C(OCC)OCC)C)CC=1C2=C(SC1)C=CC=C2)C | C19H28N2O3S
product | 1-(2-((S)-1-((benzo[b]thiophen-3-ylmethyl)((S)-1,1-diethoxypropan-2-yl)amino)-1-oxopropan-2-ylamino)-2-oxoethoxy)-3-ethylurea | S1C2=C(C(=C1)CN(C([C@H](C)NC(CONC(=O)NCC)=O)=O)[C@H](C(OCC)OCC)C)C=CC=C2 | C24H36N4O6S
